US06440995B1
(RS)-1-(2-Phenyl-quinolin-4-ylamino)-propan-2-ol hydrochloride
The title compound, m.p. 251-253° C., and MS: m/e=279.2 (M+H+), was prepared from 4-chloro-2-phenyl-quinolin and (RS)-1-amino-2-propanol.

reactant | 4-chloro-2-phenyl-quinolin | ClC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C15H10ClN
reactant | (RS)-1-amino-2-propanol | NCC(C)O | C3H9NO
product | (RS)-1-(2-Phenyl-quinolin-4-ylamino)-propan-2-ol hydrochloride | Cl.C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)NCC(C)O | InChI=1S/C18H18N2O.ClH/c1-13(21)12-19-18-11-17(14-7-3-2-4-8-14)20-16-10-6-5-9-15(16)18;/h2-11,13,21H,12H2,1H3,(H,19,20);1H
